Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses soft, ___, cottage, cream cheese
 
Attending: ___.
 
Chief Complaint:
Fever/Cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ male with history of CLL, 
atrial fibrillation on rivaroxaban, CAD s/p stent, recurrent 
pericarditis, and HFpEF who presents cough and fever.

Patient awoke at 4AM on ___ morning with fever to 103, 
sweats, and a non-productive cough. Took Tylenol and fever 
improved to 99, but in the afternoon spiked another fever. He 
also reports associated sore throat. He reports good PO intake. 
He notes shortness of breath as well as right lateral rib pain 
with
coughing. His wife was sick with similar symptoms recently but 
no other sick contacts. He had his flu shot this year. He 
reports he was originally scheduled to be admitted ___ to 
start his new chemotherapy but he was postponed till ___ 
due to difficulty getting the new medication. He called his 
Oncologist who recommended he come to the ED for evaluation.
 
On arrival to the ED, initial vitals were 100.2 106 142/73 20 
99% RA. Exam notable for anxious-appearing, lung clear without 
accessory muscle use, and benign abdomen. Labs were notable for 
WBC 18.0, H/H 10.1, Plt 31.7, Na 132, K 4.4, BUN/Cr ___, and 
lactate 1.8. Influenza PCR negative. Blood cultures were sent. 
CXR was negative for pneumonia. Patient was given Tylenol ___
PO. Prior to transfer vitals were 98.5 108 144/88 16 99% 2L.

On arrival to the floor, patient reports an mild headache. He 
denies vision changes, dizziness/lightheadedness, 
weakness/numbness, hemoptysis, chest pain, palpitations, 
abdominal pain, nausea/vomiting, diarrhea, hematemesis,
hematochezia/melena, dysuria, hematuria, and new rashes.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
CLL (17p-) and Stage IIIA Mixed germ cell tumor of the testis
- ___: Lymphocytosis incidentally found during a psychiatric
hospitalization.
- ___: CT scan showed a slightly enlarged spleen at 14.5 cm
and no adenopathy.
- ___: He met with Dr. ___ in ___ at
___. WBC was 15.0 with 49.6% lymphocytes, Hgb 11.9,
and platelets 260,000. Flow cytometry was consistent with CLL,
and B-cell gene rearrangement confirmed clonality. CLL FISH 
panel
showed a p53 mutation. He was asymptomatic at the time of
diagnosis and followed with Dr. ___. 
- WBC gradually uptrended to 22.7 in ___, 37.3 in ___,
51.3 in ___, and 50.4 on ___. Hgb has decreased slightly
to 10.9 and Hct 34.4 with platelets 234,000 on the ___ 
labs.
- ___: Hematology care transitioned to Dr. ___
after Dr. ___. He also started having nightly sweats. 

- ___: CT Chest without lymphadenopathy or other notable
findings.
- ___: Initial ___ Hematology evaluation for second
opinion. WBC 50.7, Hgb 10.5, Hct 33.2, Plt 226. Peripheral blood
flow cytometry and cytogenetics confirmed CLL with TP53 
deletion.
- ___: CT Abdomen/Pelvis without lymphadenopathy or other
notable findings.
- ___: Started ibrutinib 420 mg daily.
- ___: Ibrutinib held for vitreous bleed
- ___: Ibrutinib restarted
- ___: Per OSH records, underwent scrotal U/S showing
heterogeneous left testicle, prominent rete testis on right.
- ___: Presented to his outpatient hematologist, Dr.
___ a painful swollen left testicle (swelling over 
~8
months, worsening pain). This had been evaluated on ___ with
an ultrasound that did not demonstrate torsion but did show
heterogeneous morphology of the left testicle. HCG was positive.
Referred to Dr. ___.
- ___: Underwent left radical orchiectomy. Pathology
revealed 3.9 cm malignant mixed germ cell tumor of the testis,
95% embryonal carcinoma, 2% teratoma, 2% yolk sac tumor, 1%
choriocarcinoma, invading hilar statin ___ vaginalis, with
lymphatic vascular invasion and metastatic tumor nodules in the
spermatic cord. pT2NxS1 (although no post-orch levels, beta hCG
64 on ___, up from 21 on ___ AFP 3, LDH normal).
- ___: CT torso showing new 8 mm nodule in the left lower
lobe, and comparison with CT ___. Left para-aortic
lymphadenopathy up to 2.8 cm and a 3.5 cm fluid collection in 
the
left inguinal region/scrotum, felt to be likely postsurgical.
- ___: C1D1 EP
- ___: C2D1 EP (delayed 1 week after nasal infection
- ___: Admitted for weakness, fall
- ___: Admitted for parainfluenza pneumonia, symptomatic
anemia, palpitations, developed nausea/vomiting in hospital
- ___: C3D1 EP (delayed 1 week, added palonosetron)
- ___: C4D1 EP
- ___: CT torso with significant decrease in size of the
previously seen left para-aortic lymph node which now measures 6
mm, previously 28 mm. Otherwise no LAD.
- ___: Restarted ibrutinib for recurrent CLL (night sweats,
lymphocytosis)

PAST MEDICAL HISTORY:
- Sick sinus syndrome s/p PPM ___ Revo DDD,
MRI-compatible, ___
- CAD s/p DES to mid-LAD in ___. Preserved LVEF in ___
- Stroke ___ (with recovering motor function, though still with
some left thigh sensory decrease)
- Diabetes mellitus type II on insulin
- Hypertension
- Hyperlipidemia
- Morbid Obesity s/p Gastric bypass surgery ___
- Obstructive Sleep Apnea - not on CPAP
- Pancreatitis ___ related to alcohol
- s/p cholecystectomy
- Hypothyroidism
- Osteoarthritis
- s/p bilateral shoulder surgery, chronic pain
- Major depression with psychotic features (vs schizoaffective
disorder per patient) (Dr. ___ name unknown, affiliated
with ___)
- Anxiety
- Conversion Disorder
- Benign Paroxysmal Positional Vertigo
- Glaucoma, cataract (Dr. ___ at ___ 
___)
 
Social History:
___
Family History:
No known history of malignancies.
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: Temp 97.7, BP 155/80, HR 96, RR 19, O2 sat 99% RA.
GENERAL: Pleasant man, in no distress, sitting up in chair 
comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, decreased breath 
sounds.
ABD: Obese, soft, non-tender, non-distended, positive bowel 
sounds.
EXT: Warm, well perfused, no lower extremity edema, erythema or 
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN II-XII 
intact. Strength full throughout. Sensation to light touch 
intact.
SKIN: No significant rashes.
ACCESS: Right chest wall port without erythema.

===============================
DISCHARGE PHYSICAL EXAMINATION:
===============================

VS: Temp: 97.6 (Tm 98.5), BP: 123/78 (108-156/68-85), HR: 70
(70-111), RR: 20 (___), O2 sat: 100% (97-100), O2 delivery: RA 

GENERAL: sitting comfortably in chair, no acute distress
HEENT: no conjunctival pallor, anicteric sclera, MMM, oropharynx
clear
NECK: supple, non-tender, JVP just above clavicle
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles, breathing comfortably
___: soft, non-tender, obese, non-distended, BS normoactive
EXTREMITIES: warm/well perfused, trace lower extremity edema
NEURO: A/O x3, grossly intact
SKIN: no skin rashes/lesions
ACCESS: right sided port clean, dry and intact, without
surrounding erythema
 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 07:50PM BLOOD WBC-18.0* RBC-3.65* Hgb-10.1* Hct-31.7* 
MCV-87 MCH-27.7 MCHC-31.9* RDW-15.4 RDWSD-49.1* Plt ___
___ 07:50PM BLOOD Neuts-37 Bands-0 Lymphs-55* Monos-7 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-6.66* AbsLymp-9.90* 
AbsMono-1.26* AbsEos-0.18 AbsBaso-0.00*
___ 07:50PM BLOOD Glucose-191* UreaN-13 Creat-0.9 Na-132* 
K-4.4 Cl-95* HCO3-21* AnGap-16
___ 07:50PM BLOOD Lactate-1.8

======
MICRO:
======

___ Flu A/B PCR - Negative

___ BLOOD CULTURE
         Blood Culture: 

___ Rapid Respiratory Viral Screen & Culture
         Respiratory Viral Culture: Negative
         Respiratory Viral Antigen Screen: 
         Negative for Respiratory Viral Antigen. 
         Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza   
         A, B, and RSV by immunofluorescence. 

___ BLOOD CULTURE      Source: Line-poc. 
         Blood Culture: 

___ URINE CULTURE
         Urine Culture:     Yeast >100,000 CFU/ml

================
IMAGING/REPORTS:
================

___ CXR
Right-sided Port-A-Cath tip terminates in the low SVC.  
Left-sided 
dual-chamber pacemaker device is again noted with leads in 
unchanged 
positions. Cardiac silhouette size remains mildly enlarged. The 
mediastinal and hilar contours are unchanged. Pulmonary 
vasculature is normal. No focal consolidation, pleural effusion, 
or pneumothorax is demonstrated. Previously noted small left 
pleural effusion appears resolved. No acute osseous 
abnormalities demonstrated. 

___ TTE
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. There is mild global left ventricular hypokinesis 
(LVEF = 40 %). Right ventricular chamber size is normal with 
mild global free wall hypokinesis. The aortic root is mildly 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are not well 
seen. There is mild pulmonary artery systolic hypertension. 
There is a small pericardial effusion. The effusion is echo 
dense, consistent with blood, inflammation or other cellular 
elements. There are no echocardiographic signs of tamponade or 
constriction.

___ CXR
In comparison with the study of ___, there are slightly 
lower lung 
volumes. Continued enlargement the cardiac silhouette with dual 
channel pacer in place. Right IJ Port-A-Cath is unchanged. Note 
focal pneumonia, vascular congestion, or pleural effusion. 

===========
OTHER LABS:
===========

___ 05:45AM BLOOD IgG-537*
___ 08:30AM BLOOD Lactate-1.9
___ 08:22AM BLOOD proBNP-6621*
___ 12:35PM BLOOD Osmolal-267*
___ 08:22AM BLOOD TSH-7.4*
___ 12:56PM BLOOD Lactate-1.3

===============
DISCHARGE LABS:
===============

___ 11:28PM BLOOD WBC-10.3* RBC-2.95* Hgb-7.9* Hct-25.3* 
MCV-86 MCH-26.8 MCHC-31.2* RDW-15.0 RDWSD-46.7* Plt ___
___ 11:28PM BLOOD Neuts-62 Bands-0 ___ Monos-5 Eos-0 
Baso-0 Atyps-4* ___ Myelos-0 AbsNeut-6.39* AbsLymp-3.40 
AbsMono-0.52 AbsEos-0.00* AbsBaso-0.00*
___ 11:28PM BLOOD Glucose-77 UreaN-20 Creat-1.1 Na-133* 
K-4.7 Cl-95* HCO3-22 AnGap-16
___ 11:28PM BLOOD ALT-12 AST-14 LD(LDH)-224 AlkPhos-81 
TotBili-<0.2
___ 11:28PM BLOOD Calcium-7.7* Phos-2.8 Mg-2.___ with a background history of CLL, previously on ibrutinib, 
status post EP x4 cycles, and now planned for venetoclax, SSS 
status post PPM placement, AF on rivaroxaban, CAD status post 
stent, recurrent pericarditis, HFpEF, stroke, HTN/HLD, and 
hypothyroidism, presenting with cough and fever. 

====================
ACUTE/ACTIVE ISSUES:
====================

# Fever
# Non-productive cough
Presented with one day history of fever (103), sore throat, 
intermittent dry cough, general body aches and mild shortness of 
breath. Wife with similar symptoms in the days preceding 
symptoms, which had subsequently resolved. Patient had flu 
vaccine this season. Took Tylenol with some improvement in 
fever, but given persistence greater than 100.3F, presented to 
ED. Examination with clear lungs bilaterally and no evidence of 
fluid overload. Labs were unremarkable. CXR without evidence of 
infiltrates/consolidation. As symptoms were most likely 
consistent with a viral syndrome, patient was treated 
symptomatically and started on five day course of levofloxacin 
to prevent bacterial superinfection. Total IgG levels >500. 
Influenza swab negative and respiratory viral culture negative. 
Symptoms gradually improved and resolved over the course of the 
admission. Patient left AMA, understanding all risks to him 
leaving.

# UTI
# ___
Baseline creatinine ~1.0. Acute rise prior to transfer to FICU, 
with poor urine output over the previous 12 hours. Most likely 
etiology included pre-renal vs. ATN, in the setting of 
hypovolemia and hypotension. However, patient was on many 
medications which could have precipitated ___, including 
colchicine, losartan and acyclovir. These medications were held, 
but restarted prior to discharge, as creatinine returned to 
baseline following administration of 2L IVF in FICU. Patient 
also noted to have dirty UA, with subsequent urine culture 
positive for yeast >100,000 CFU/ml. Started fluconazole 200mg 
daily for 14 days. Patient left AMA, understanding all risks to 
him leaving.

# Atrial flutter
Patient with a background history of atrial fibrillation/flutter 
with RVR. On previous admission required transfer to CCU for 
rate management in the setting of pericardial effusion, and 
subsequent tamponade requiring pericardiocentesis. Flipped into 
atrial flutter with rates 140-150s on ___. Minimal response to 
PO/IV diltiazem and PO metoprolol. Patient remained asymptomatic 
but given hypotension, with systolic blood pressure readings in 
the ___, patient was transferred to ICU for rate control. Here 
he received 2L IVF and was loaded with IV amiodarone, with 
subsequent normalization of rates and pressures. Remained stable 
on the floor, on fractionated metoprolol 37.5mg Q6H, before 
transitioning to home regimen of metoprolol succinate 150mg 
daily prior to discharge. 

# CLL
# Lymphocytosis
Diagnosed in ___, unfavorable cytogenetics by virtue of 
deletion(17p), previously on ibrutinib and has completed four 
cycles of EP, but now off ibritnib therapy given recent 
admission for pericardial effusion and hypotension. Patient was 
scheduled for admission ___ to initiate therapy with 
venetoclax. This was deferred given current infective process 
and will be commenced at a later date. Continued home acyclovir 
for prophylaxis.

======================
CHRONIC/STABLE ISSUES:
======================

# Type II Diabetes Mellitus
Continued home insulin glargine regimen, but eased back on 
Humalog ISS on admission. Blood sugars remained controlled. 

# HFrEF
Continued furosemide 20mg every other day initially for preload 
reduction and losartan 25mg daily for afterload reduction, 
however given acute rise in creatinine on ___, furosemide and 
losartan were both held. NHBK was initially achieved with 
fractionated metoprolol, but given atrial flutter changes were 
made as above. Given normalization of creatinine and heart 
rates, patient was transitioned back to the above medications 
prior to discharge.

# Atrial Fibrillation
Continued rivaroxaban while inpatient. Temporarily transitioned 
to heparin drip given acute rise in creatinine, but restarted 
rivaroxaban with improvement in renal function. Rate control 
management was achieved with control of atrial flutter as above, 
before transitioning back to home regimen of metoprolol. 

# CAD status post LAD PCI
# Hyperlipidemia
Patient was transitioned back to aspirin 81mg daily from aspirin 
325mg daily, given resolution of pericarditis symptoms. 
Atorvastatin and fenofibrate had been held on a previous 
admission. The decision if/when to restart these is deferred to 
outpatient providers. 

# Pericarditis
Continued prednisone taper, but changed colchicine BID to daily 
dosing. 

# Hypertension
Continued home losartan initially, before it was held in the 
setting of ___. Restarted prior to discharge.

# Schizoaffective Disorder
Continued home divalproex, fluoxetine, and ziprasidone.

# Hyponatremia
Stable and chronic. Thought to be some component of SIADH. 
Sodium levels were closely monitored during admission, and 
patient was maintained on a low sodium diet. 

# Anemia
Chronic and stable. Likely due to malignancy.

# Hypothyroidism
Continued home levothyroxine 50mcg daily.

====================
TRANSITIONAL ISSUES:
====================

- discharge WBC 10.3
- discharge Hgb 7.9
- discharge Plt 185
- discharge Na 133
- discharge K 4.7
- discharge creatinine 1.1

MEDICATION CHANGES:
[] fluconazole 200mg daily for 14 days
[] levofloxacin 750mg one dose
[] changed aspirin to 81mg daily
[] changed colchicine to 0.6mg daily

[] Follow-up with oncologist, Dr. ___ week
[] Follow-up when to start venetoclax
[] Re-check TFTs in six weeks to ensure correct dose of 
levothyroxine
[] Decide if/when to restart atorvastatin/fenofibrate
[] Repeat EKG with PCP at next visit, to assess rhythm 
[] Discuss chronic pain management at next PCP visit, given 
concern patient is pain is not adequately controlled
[] Patient left AMA

============================================
# CODE STATUS: Full
# CONTACT: ___, HCP/son, ___
 
Medications on Admission:
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Acyclovir 400 mg PO Q8H 
3. Aspirin 81 mg PO DAILY 
4. Colchicine 0.6 mg PO BID 
5. Divalproex (EXTended Release) 500 mg PO QAM 
6. Divalproex (EXTended Release) 750 mg PO QPM 
7. FLUoxetine 20 mg PO DAILY 
8. Furosemide 20 mg PO EVERY OTHER DAY 
9. Gabapentin 300 mg PO TID 
10. Lidocaine 5% Patch 3 PTCH TD DAILY:PRN back pain 
11. Multivitamins 1 TAB PO DAILY 
12. Pantoprazole 40 mg PO Q24H 
13. Rivaroxaban 20 mg PO DINNER 
14. Senna 8.6 mg PO BID 
15. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
16. Losartan Potassium 25 mg PO DAILY 
17. Magnesium Oxide 400 mg PO BID 
18. Metoprolol Succinate XL 150 mg PO DAILY 
19. PredniSONE 5 mg PO DAILY 
20. Glargine 75 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
21. Docusate Sodium 100 mg PO BID 
22. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN Nasal 
congestion 
23. melatonin 2.5 mg oral QHS:PRN 
24. Levothyroxine Sodium 25 mcg PO DAILY 
25. TraZODone 200 mg PO QHS:PRN Insomnia 
26. ZIPRASidone Hydrochloride 40 mg PO BID 

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H Duration: 14 Doses 
RX *fluconazole 200 mg 1 tablet(s) by mouth Daily Disp #*14 
Tablet Refills:*0 
2.  Levofloxacin 750 mg PO Q24H Duration: 1 Dose 
RX *levofloxacin 750 mg 1 tablet(s) by mouth ONCE Disp #*1 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Colchicine 0.6 mg PO DAILY 
RX *colchicine 0.6 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
5.  Glargine 75 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
6.  Acyclovir 400 mg PO Q8H  
7.  Divalproex (EXTended Release) 500 mg PO QAM  
8.  Divalproex (EXTended Release) 750 mg PO QPM  
9.  Docusate Sodium 100 mg PO BID  
10.  FLUoxetine 20 mg PO DAILY  
11.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN Nasal 
congestion  
12.  Furosemide 20 mg PO EVERY OTHER DAY  
13.  Gabapentin 300 mg PO TID  
14.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
15.  Levothyroxine Sodium 50 mcg PO DAILY  
16.  Lidocaine 5% Patch 3 PTCH TD DAILY:PRN back pain  
17.  Losartan Potassium 25 mg PO DAILY  
18.  Magnesium Oxide 400 mg PO BID  
19.  Metoprolol Succinate XL 150 mg PO DAILY  
20.  Multivitamins 1 TAB PO DAILY  
21.  Pantoprazole 40 mg PO Q24H  
22.  PredniSONE 5 mg PO DAILY Duration: 3 Doses 
Tapered dose - DOWN  
23.  Rivaroxaban 20 mg PO DINNER  
24.  Senna 8.6 mg PO BID:PRN constipation  
25.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Viral bronchitis 
Acute kidney injury
Yeast urinary tract infection
Atrial flutter with RVR and hypotension
CLL 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You decided to leave the hospital AGAINST MEDICAL ADVICE. We 
wanted you to stay as you had evidence of a yeast urinary tract 
infection, but you were not willing to do this. You understood 
the risks, including death and severe infection, but still 
wanted to leave. Although you are leaving AGAINST MEDICAL 
ADVICE, it is important you follow the below instructions. 

- We will give you a prescription, and you must pick these up in 
the morning
- If you develop fevers, burning when you urinate, pain in your 
abdomen, racing heart, chest pain or shortness of breath, you 
should return to the ED.

WHY YOU CAME TO THE HOSPITAL
You were admitted to the hospital with fevers, cough, 
generalized body aches and right sided rib pain.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
- You tested negative for flu, so your symptoms likely 
represented a viral infection
- We treated you with antibiotics to prevent pneumonia
- You developed a rapid heart rate and low blood pressures, 
requiring transfer to the ICU for management of same
- When your heart rate and blood pressure returned to normal, 
you were transferred back to the floor
- You were found to have a urinary tract infection, which you 
will need to take medication to treat when you are discharged

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
- You need to take all your medications as prescribed
- Follow-up with Dr. ___ as arranged 
- You will start your CLL treatment at a later date
- Keep a close eye on your weight, and restrict your salt and 
fluid intake

Your ___ Team

MEDICATION CHANGES:
[] fluconazole 200mg daily for 14 days
[] levofloxacin 750mg one dose
[] changed aspirin to 81mg daily
[] changed colchicine to 0.6mg daily
 
Followup Instructions:
___